US07915281B2
Under a nitrogen atmosphere, ethoxyacetyl chloride (1.6 g, 13 mmol) was added over a period of ten minutes to a cooled (6° C.) solution of N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}[1,5]naphthyridine-3,4-diamine (4.1 g, 12 mmol) and anhydrous triethylamine (2.6 mL, 18 mmol) in anhydrous dichloromethane (150 mL). After the reaction was stirred for 30 minutes, an analysis by HPLC indicated the presence of starting material, and additional ethoxyacetyl chloride (1.1 g) was added. The reaction was stirred for an additional 30 minutes and then was diluted with dichloromethane and washed with saturated aqueous potassium carbonate. The aqueous layer was separated and extracted with dichloromethane, and the combined organic fractions were washed with water and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford 2-ethoxy-N-[4-({[3-(4-fluorophenyl)isoxazol-5-yl]methyl}amino)[1,5]naphthyridin-3-yl]acetamide as a black oil.

reactant | ethoxyacetyl chloride | 13 mmol, 1.6 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}[1,5]naphthyridine-3,4-diamine | 12 mmol, 4.1 g | FC1=CC=C(C=C1)C1=NOC(=C1)CNC1=C(C=NC2=CC=CN=C12)N | C18H14FN5O
reactant | triethylamine | 18 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 1.1 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-ethoxy-N-[4-({[3-(4-fluorophenyl)isoxazol-5-yl]methyl}amino)[1,5]naphthyridin-3-yl]acetamide | C(C)OCC(=O)NC=1C=NC2=CC=CN=C2C1NCC1=CC(=NO1)C1=CC=C(C=C1)F | C22H20FN5O3
